US09353093B2
The reaction mixture of 2-(4-amino-phenyl)-indole-1-carboxylic acid amide (125.5 mg, 0.5 mmol, 1 eq) and 3-ethylphenyl isocyanate (0.073 mL, 1 eq) in anhydrous THF (4 mL) was stirred at room temperature for 2 hours. It was then diluted with ethyl acetate, washed sequentially with aqueous NH4Cl, saturated aqueous NaHCO3, brine, and dried with anhydrous sodium sulfate. The upper liquor was decanted, concentrated, and the solid residue was triturated with EtOAC-Hex (1:1). 2-[4-({[(3-ethylphenyl)amino]carbonyl}amino)phenyl]-1H-indole-1-carboxamide was obtained as white solid upon filtration in amount of 156 mg (78%).

reactant | 2-(4-amino-phenyl)-indole-1-carboxylic acid amide | 0.5 mmol, 125.5 mg, 1 eq | NC1=CC=C(C=C1)C=1N(C2=CC=CC=C2C1)C(=O)N | C15H13N3O
reactant | 3-ethylphenyl isocyanate | 0.073 mL, 1 eq | C(C)C=1C=C(C=CC1)N=C=O | C9H9NO
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[4-({[(3-ethylphenyl)amino]carbonyl}amino)phenyl]-1H-indole-1-carboxamide | C(C)C=1C=C(C=CC1)NC(=O)NC1=CC=C(C=C1)C=1N(C2=CC=CC=C2C1)C(=O)N | C24H22N4O2
